Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
endometrial cancer
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, pelvic lymph node dissection, cystoscopy

 
History of Present Illness:
___ with a past medical
history notable for chronic kidney disease, hypertension, and a
history of PE and DVT in ___ who reports the onset of vaginal
bleeding on ___.  She presented to the emergency room and
underwent a CT of the abdomen and pelvis.  This showed
diverticular disease without inflammation as well as uterine
fibroids but no lymphadenopathy.   She was referred to Dr. 
___ attempted an endometrial biopsy which was nondiagnostic.  
She
also had what appeared to be a cervical biopsy and ECC on
___ which were both negative.  She then proceeded to the
operating room on ___ for a hysteroscopy with ___ curettage.  Findings were notable for a lush endometrium
with a polypoid lesion with abnormal vessels on the right 
uterine
sidewall and a larger lesion on the posterior uterine wall with
abnormal vessels, both which were biopsied and removed.  Final
pathology from this procedure showed an endometrial
adenocarcinoma, endometrioid type, FIGO grade 1.  The specimen
has been received here at ___ but has not yet been
interpreted for second opinion.  The patient was referred to GYN
oncology for further evaluation and treatment recommendations. 
She presents today for consultation along with her 2 daughters.

Since then she continues to have light vaginal bleeding.  She
otherwise feels
well and denies any pain or discomfort. She denies any
early satiety, unintentional weight changes, nausea/vomiting,
SOB/CP, increased abdominal girth, abdominal or pelvic pain,
vaginal discharge, or change in her bowel or bladder habits.

10 system Review of Systems negative except as noted above.
 
Past Medical History:
Health Maintenance:
-Mammogram: ___ years ago
-Colonoscopy: Never
-Bone Mineral Density: Unsure 

Past Medical History: obesity, pernicious anemia, asthma,
hypertension, anxiety disorder, hypothyroidism, personal history
of a DVT and PE, chronic kidney disease, chronic venous stasis
and lower extremity edema

Past Surgical History: Open cholecystectomy, ___
                                 
Past OB History:  G7 P5
7 vaginal deliveries without complications

Past GYN History:
Menopausal.  This is her first episode of postmenopausal
bleeding.  She has never taken any hormone replacement therapy. 
She denies any significant gynecologic problems in the past.

 
Social History:
___
Family History:
Denies family history of GYN cancer, breast cancer, colon cancer 
                                            

 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 06:25AM BLOOD WBC-7.1 RBC-3.81* Hgb-10.7* Hct-32.5* 
MCV-85 MCH-28.1 MCHC-32.9 RDW-14.5 RDWSD-44.9 Plt ___
___ 06:25AM BLOOD Glucose-114* UreaN-13 Creat-0.9 Na-139 
K-3.7 Cl-102 HCO3-27 AnGap-14
___ 06:25AM BLOOD Calcium-8.4 Phos-2.9 Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing total laparoscopic hysterectomy, bilateral 
slapping-oophorectomy, pelvic lymph node dissection, and 
cystoscopy for endometrial cancer. Please see the operative 
report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV morphine and IV 
toradol. Her diet was advanced without difficulty and she was 
transitioned to PO ibuprofen, liquid Tylenol, and liquid 
oxycodone. On post-operative day #1, her urine output was 
adequate so her Foley catheter was removed and she voided 
spontaneously. 

She was continued on her home medications for hypothyroidism, 
hypertension (hydrochlorothiazide restarted on post operative 
day 1), and asthma.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.  She 
was also discharged on 28 days of Lovenox for a personal history 
of deep venous thrombosis and pulmonary embolism.
 
Medications on Admission:
albuterol, brinzolamide-brimonidine (eye drops), clobetasol, 
fluticasone-salmeterol, hydrochlorothiazide 12.5 daily, 
latenoprost, levothyroxine 75 mcg daily, ativan, timolol, 
tramadol, baby aspirin, vitamin D3, vitamin B12
 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Moderate 
RX *acetaminophen 650 mg/20.3 mL 650 mg by mouth every 6 hours 
Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*60 Capsule Refills:*1 
3.  Enoxaparin Sodium 40 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg IM daily Disp #*28 Syringe 
Refills:*0 
4.  Ibuprofen Suspension 400 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 100 mg/5 mL 20 ml by mouth every four (4) hours 
Refills:*0 
5.  OxycoDONE Liquid 2.5 mg PO Q4H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 2.5 mg by mouth every 4 hours Refills:*0 

6.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.8 mg/5 mL 5 ml by mouth twice a day 
Refills:*0 
7.  Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing  
8.  Hydrochlorothiazide 12.5 mg PO DAILY  
9.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
* If you have staples, they will be removed at your follow-up 
visit.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___